US04137318
1-[6,7-Dimethoxy-3,4-dihydro-2H-isoquinolin-1-one-2-yl]-3-[N-benzyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane was prepared analogous to Example 1 (b) by reacting 1-(6,7-dimethoxy-3,4-dihydro-2H-isoquinolin-1-one-2-yl)-3-chloropropane with N-(3,4-dimethoxy-phenylethyl)-N-benzyl-amine in chlorobenzene in the presence of potassium carbonate. Yield: 2.2 gm (69.8% of theory); Rf -value (chloroform/methanol = 19:1): 0.8.

reactant | 1-(6,7-dimethoxy-3,4-dihydro-2H-isoquinolin-1-one-2-yl)-3-chloropropane | COC=1C=C2CCN(C(C2=CC1OC)=O)CCCCl | C14H18ClNO3
reactant | N-(3,4-dimethoxy-phenylethyl)-N-benzyl-amine | COC=1C=C(C=CC1OC)CCNCC1=CC=CC=C1 | C17H21NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 1-[6,7-Dimethoxy-3,4-dihydro-2H-isoquinolin-1-one-2-yl]-3-[N-benzyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane | COC=1C=C2CCN(C(C2=CC1OC)=O)CCCN(CCC1=CC(=C(C=C1)OC)OC)CC1=CC=CC=C1 | C31H38N2O5
